US07750003B2
4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidin-2-yl]aniline
A mixture of 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidine (480 mg, 1.15 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (378 mg, 1.73 mmol) and 2M aqueous sodium carbonate solution (2.8 mL, 5.60 mmol) in a mixture of DMF (2 mL), 1,2-dimethoxyethane (2 mL), ethanol (2 mL) and water (5 mL) was purged with nitrogen for 10 minutes prior to addition of bis(triphenylphosphine)palladium(II) chloride (54 mg, 0.08 mmol). The reaction mixture was heated to 85° C. and stirred at that temperature, under nitrogen for 3 hours. The reaction mixture was then cooled and partitioned between ethyl acetate (50 mL) and water (30 mL). The organic layer was separated and the aqueous layer re-extracted with ethyl acetate (25 mL). Combined organic layers were washed with brine (50 mL), dried (MgSO4), filtered and evaporated to afford the crude product, which was purified by flash silica chromatography, elution gradient 25 to 75% ethyl acetate in isohexane, to give the desired material (367 mg).

reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidine | 1.15 mmol, 480 mg | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C=1SC=C(N1)C | C16H21ClN4O3S2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.73 mmol, 378 mg | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 5.60 mmol, 2M, 2.8 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.08 mmol, 54 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 5 mL | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-[2-[(4-methyl-1,3-thiazol-2-yl)sulfonyl]propan-2-yl]pyrimidin-2-yl]aniline | 367 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C=1SC=C(N1)C)C1=CC=C(N)C=C1 | C22H27N5O3S2
